US04808604
A solution of 7.1 g (11.8 mmol) of N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropoxy]-2-cyanophenyl}-1-(4-methoxybenzyl)tetrazole-5-carboxamide in 150 ml of trifluoroacetic acid and 15 ml of anisole is heated at reflux temperature for 30 minutes. The reaction mixture is concentrated under reduced pressure, about 200 ml of ether and 300 ml of petroleum ether are added to the residue, and the crystals are filtered off. The N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropoxy]-2-cyanophenyl}-1H-tetrazole-5-carboxamide of melting point 210°-213° thus obtained is dissolved in 50 ml of hot acetone, and one equivalent of triethanolamine in 20 ml of acetone is added. Crystallisation sets in after ether has been addded. This gives the triethanolammonium salt of N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropoxy]-2-cyanophenyl}-1H-tetrazole-5-carboxamide of melting point 80°-82°.

reactant | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropoxy]-2-cyanophenyl}-1-(4-methoxybenzyl)tetrazole-5-carboxamide | 11.8 mmol, 7.1 g | C(C)(=O)C1=C(C(=C(OCC(COC=2C(=C(C=CC2)NC(=O)C2=NN=NN2CC2=CC=C(C=C2)OC)C#N)O)C=C1)CCC)O | C31H32N6O7
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 15 ml | C1(=CC=CC=C1)OC | C7H8O
product | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-2-hydroxypropoxy]-2-cyanophenyl}-1H-tetrazole-5-carboxamide | C(C)(=O)C1=C(C(=C(OCC(COC=2C(=C(C=CC2)NC(=O)C2=NN=NN2)C#N)O)C=C1)CCC)O | C23H24N6O6
